US07968538B2
N-(2-(Methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine
N-(5-Fluoro-2-(methylsulfonyl)phenyl)naphthalen-1-amine (0.56 g, 1.7 mmol), piperazine (0.46 g, 5.3 mmol), N,N-diisopropylethylamine (0.89 g, 6.8 mmol) were stirred at 80° C. in dry acetonitrile (5 mL) for 48 h. The solvent was evaporated and the residue was dissolved in dichloromethane and washed with water. The dichloromethane was evaporated and the crude compound was purified by silica chromatography using 10% methanol in dichloromethane to afford the title compound (120 mg, 18% yield). 1H NMR (400 MHz, CDCl3): δ 8.10 (s, 1H), 7.89 (d, 1H), 7.83 (d, 1H), 7.66 (d, 1H), 7.62 (m, 1H), 7.39 (m, 4H), 6.35 (d, 1H), 6.26 (s, 1H), 3.09 (s, 3H), 2.98 (m, 4H), 2.79 (m, 4H); MS (ESI) m/z: Calculated for C21H24N3O2S: 382.2; Observed: 382.4 (M+).

reactant | N-(5-Fluoro-2-(methylsulfonyl)phenyl)naphthalen-1-amine | 1.7 mmol, 0.56 g | FC=1C=CC(=C(C1)NC1=CC=CC2=CC=CC=C12)S(=O)(=O)C | C17H14FNO2S
reactant | piperazine | 5.3 mmol, 0.46 g | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 6.8 mmol, 0.89 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N-(2-(Methylsulfonyl)-5-(piperazin-1-yl)phenyl)naphthalen-1-amine | 120 mg, 18% yield | CS(=O)(=O)C1=C(C=C(C=C1)N1CCNCC1)NC1=CC=CC2=CC=CC=C12 | C21H23N3O2S
